US05496930
13. Preparation of 6-O-acetyl-3-O-chloroacetyl-glucal
1.03 g (5.5 mmol) of 6-O-acetylglucal are taken up in about 2-5 ml of dimethoxyethane and 10 ml of vinyl chloroacetate and stirred with 1 g of lipase P (Amano) at room temperature for about 2-3 h. Filtering off the enzyme, concentration of the solution and chromatography on silica gel (ether/hexane 1:2) result in 6-O-acetyl-3-O-chloroacetyl-glucal in 80-85% yield.

reactant | 6-O-acetylglucal | 5.5 mmol, 1.03 g | C(C)(=O)OC[C@@H]1[C@H]([C@@H](C=CO1)O)O | C8H12O5
reactant | vinyl chloroacetate | 10 ml | ClCC(=O)OC=C | C4H5ClO2
solvent | dimethoxyethane | about 2-5 ml | C(OC)COC | C4H10O2
product | 6-O-acetyl-3-O-chloroacetyl-glucal | 80-85% yield | C(C)(=O)OC[C@@H]1[C@H]([C@@H](C=CO1)OC(CCl)=O)O | C10H13ClO6
